US08470847B2
A solution of 14.75 ml of trimethylsilylacetylene (103.62 mmol) in 250 ml of tetrahydrofuran is cooled to −70° C. and then 64.76 ml of a 1.6 M solution of n-BuLi (103.62 mmol) in hexane are added. The mixture is stirred for 25 minutes at −70° C. and then a solution of 13.14 g of N-methoxy-N-methyl-2-methoxyacetamide (98.69 mmol) in 250 ml of tetrahydrofuran is added rapidly. During the addition, the temperature rises to −50° C., and then the cold bath is removed and the mixture is stirred for 2 hours at ambient temperature. A 1N solution of HClaq is added and then extraction is carried out 4 times with ethyl acetate. The organic phases are combined, dried over sodium sulphate, filtered, and concentrated under vacuum. 13.4 g of 1-methoxy-4-(trimethylsilyl)but-3-yn-2-one are obtained in the form of a light brown oil which is used without subsequent purification (crude yield=80%).

reactant | trimethylsilylacetylene | 103.62 mmol, 14.75 ml | C[Si](C)(C)C#C | C5H10Si
reactant | n-BuLi | 103.62 mmol | [Li]CCCC
reactant | N-methoxy-N-methyl-2-methoxyacetamide | 98.69 mmol, 13.14 g | CON(C(COC)=O)C | C5H11NO3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-methoxy-4-(trimethylsilyl)but-3-yn-2-one | 13.4 g | COCC(C#C[Si](C)(C)C)=O | C8H14O2Si
